US04655973
N-(p-Hydroxyphenyl)-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide
In 30 ml. of tetrahydrofuran was dissolved 3 g. of 3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoic acid. To this solution was added 1 g. of triethylamine, and further added 1.1 g. of ethyl chlorocarbonate under stirring at room temperature. After 10 minutes, the reaction liquid was poured into 100 ml. of water, and extracted with 100 ml. of n-hexane. The extract was washed with 50 ml. of water and evaporated to remove the solvent. The residue was dissolved in 30 ml. of tetrahydrofuran. To this soluton was added 1.1. g. of p-aminophenol, and the mixture was stirred at room temperature for 30 minutes. To the reaction liquid was added 200 ml. of diethyl ether, and the mixture was washed successively with two 50 ml. portions of dilute hydrochloric acid and two 50 ml. portions of water. The ether phase was dried over magnesium sulfate and evaporated to remove the solvent. The residue was crystallized from ethanol to obtain 3.2 g. of the desired product as pale yellow crystals.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoic acid | CC(=CC(=O)O)C=CC=C(CCC=C(CCC=C(C)C)C)C | C20H30O2
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(p-Hydroxyphenyl)-3,7,11,15-tetramethyl-2,4,6,10,14-hexadecapentaenoamide | OC1=CC=C(C=C1)NC(C=C(C=CC=C(CCC=C(CCC=C(C)C)C)C)C)=O | C26H35NO2
